US07238725B2
Intermediate 53: 4-Cyclopropylmethoxydibenzo[b,d]furan
A solution of Dibenzo[b,d]furan-4-ol (1 g, 5.43 mmol) in DMF (5 ml) was added to a stirred and cooled (0° C.) suspension of 60% sodium hydride (326 mg, 8.12 mmol) in DMF (20 ml). The mixture was stirred at 0° C. for 5 min and cyclopropylmethyl bromide (1.31 g, 10.85 mmol) in DMF (5 ml) was added dropwise over a period of 10 min. The cooling bath was removed and the mixture was stirred for 1 h at room temperature. The reaction mixture was diluted with ice-cold water (100 ml) and extracted with EtOAc (3×50 ml). The combined organic extracts were washed with water (2×100 ml), brine (100 ml) and dried (Na2SO4), to give 1.16 g (90%) of the product as viscous liquid

reactant | Dibenzo[b,d]furan-4-ol | 5.43 mmol, 1 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)O | C12H8O2
reactant | sodium hydride | 8.12 mmol, 326 mg | [H-].[Na+]
reactant | cyclopropylmethyl bromide | 10.85 mmol, 1.31 g | C1(CC1)CBr | C4H7Br
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-Cyclopropylmethoxydibenzo[b,d]furan | 1.16 g, 90% | C1(CC1)COC1=CC=CC2=C1OC1=C2C=CC=C1 | C16H14O2
